US08420849B2
2-(3,4-Dimethylphenyl)-3-hydroxy-4-methylcarbonyl thiophene
A chloroform (24 mL) solution of 2-(3,4-dimethylphenyl)-3-hydroxy-4-methylcarbonyl-2,5-dihydrothiophene (2.44 g, 9.82 mmol, purity: 72%) was cooled to −40° C., and to this solution, a chloroform (37 mL) solution of sulfuryl chloride (0.79 mL, 1.0 equivalent amount) was dropwise added over a period of 55 minutes, followed by stirring at −40° C. for 60 minutes. The temperature of the solution was raised to 0° C., and water (5 mL) was dropwise added over a period of 1 minute, followed by liquid separation. The obtained chloroform solution was sequentially washed with water, a saturated salt solution, a saturated sodium hydrogencarbonate aqueous solution, a saturated sodium thiosulfate aqueous solution and a saturated salt solution, and dried over anhydrous magnesium sulfate. The drying agent was removed by filtration, and the solvent was distilled off to obtain a crude product. The obtained crude product was suspended in isopropyl alcohol (37 mL) at room temperature, followed by stirring at 0° C. for 30 minutes. The formed crystals were subjected to filtration to give the desired product (0.47 g, yield: 20%) as a yellow solid. Further, the filtrate was isolated and purified by silica gel column chromatography (eluent: hexane/ethyl acetate=3/1 (v/v)) to give the desired product (0.81 g, yield: 33%) as a yellow solid (1.28 g, yield: 53%).

reactant | chloroform | 24 mL | C(Cl)(Cl)Cl | CHCl3
reactant | 2-(3,4-dimethylphenyl)-3-hydroxy-4-methylcarbonyl-2,5-dihydrothiophene | 9.82 mmol, 2.44 g | CC=1C=C(C=CC1C)C1SCC(=C1O)C(=O)C | C14H16O2S
reactant | chloroform | 37 mL | C(Cl)(Cl)Cl | CHCl3
reactant | sulfuryl chloride | 0.79 mL, 1.0 equivalent | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | water | 5 mL | O | H2O
solvent | isopropyl alcohol | 37 mL | C(C)(C)O | C3H8O
product | 2-(3,4-Dimethylphenyl)-3-hydroxy-4-methylcarbonyl thiophene | 0.47 g, yield: 20% | CC=1C=C(C=CC1C)C=1SC=C(C1O)C(=O)C | C14H14O2S
